US05444074
A solution of methyl 4-nitrobutyrate (23 g) and benzaldehyde (16 ml) in acetic add (39 ml) containing ammonium acetate (12.12 g) was heated at reflux under nitrogen for 2 h. The reaction mixture was cooled to 5° C., whereby a pale-yellow solid crystallised. This was isolated by filtration, then dissolved in dichloromethane, washed cautiously with saturated aqueous sodium bicarbonate solution (2×), then dried (MgSO4) and concentrated to leave a yellow solid. Recrystallisation from ethyl acetate provided 5-nitro-2-oxo-6-phenylpiperidine (12.5 g) as a crystalline, white solid. 1H NMR (CDCl3) d 7.46-7.26 (m), 6.0 (br s), 5.24 (dd, J=1.4, 7.0 Hz), 4.70 (m), 2.70-2.50 (m), 2.38-2.24 (m).

reactant | methyl 4-nitrobutyrate | 23 g | [N+](=O)([O-])CCCC(=O)OC | C5H9NO4
reactant | benzaldehyde | 16 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | ammonium acetate | 12.12 g | C(C)(=O)[O-].[NH4+]
solvent | acetic | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-nitro-2-oxo-6-phenylpiperidine | 12.5 g | [N+](=O)([O-])C1CCC(NC1C1=CC=CC=C1)=O | C11H12N2O3
